US07592363B2
1-{4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}PIPERIDINE-4-CARBOXYLIC ACID
A solution of ethyl 1-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}piperidine-4-carboxylate (0.06 g, 0.12 mmol) in 5 mL of methanol containing 1 mL of 1 N NaOH was stirred overnight at ambient temperature. The reaction mixture was neutralized with dilute HCl and partitioned with ethyl acetate and H2O. The organic phase was dried (Na2SO4) and concentrated in vacuo. The residue was triturated with petroleum ether to give the title compound as an amber solid (0.049 g).

reactant | ethyl 1-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}piperidine-4-carboxylate | 0.12 mmol, 0.06 g | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)N1CCC(CC1)C(=O)OCC)C(F)(F)F | C29H28F3N3O2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 1-{4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}PIPERIDINE-4-CARBOXYLIC ACID | 0.049 g | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)N1CCC(CC1)C(=O)O)C(F)(F)F | C27H24F3N3O2
